US05021483
Tris(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl) 1,3,5-Triazine-2,4,6-tricarboxylate
The title compound is prepared by the reaction of triethyl 1,3,5-triazine-2,4,6-tricarboxylate and 4-hydroxy-1-methoxy-2,2,6,6-tetramethylpiperidine.

reactant | triethyl 1,3,5-triazine-2,4,6-tricarboxylate | N1=C(N=C(N=C1C(=O)OCC)C(=O)OCC)C(=O)OCC | C12H15N3O6
reactant | 4-hydroxy-1-methoxy-2,2,6,6-tetramethylpiperidine | OC1CC(N(C(C1)(C)C)OC)(C)C | C10H21NO2
product | Tris(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl) 1,3,5-Triazine-2,4,6-tricarboxylate | N1=C(N=C(N=C1C(=O)OC1CC(N(C(C1)(C)C)OC)(C)C)C(=O)OC1CC(N(C(C1)(C)C)OC)(C)C)C(=O)OC1CC(N(C(C1)(C)C)OC)(C)C | C36H60N6O9
